US07371743B2
(c) ethyl 3-(2-chloro-ethoxy)-propionate
2.26 g (13.9 mmol) ethyl 3-(2-hydroxy-ethoxy)-propionate are suspended in 5 ml (68.5 mmol) thionyl chloride and 20 μl (0.27 mmol) DMF are added. The reaction mixture is refluxed for 4 hours and then evaporated down i. vac. The product is further reacted without any more purification.

reactant | ethyl 3-(2-hydroxy-ethoxy)-propionate | 13.9 mmol, 2.26 g | OCCOCCC(=O)OCC | C7H14O4
reactant | thionyl chloride | 68.5 mmol, 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.27 mmol, 20 μl | CN(C)C=O | C3H7NO
product | ethyl 3-(2-chloro-ethoxy)-propionate | ClCCOCCC(=O)OCC | C7H13ClO3
